US09126970B2
4,4′-Di(12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluoren-10-yl)biphenyl
30.3 g (107 mmol) of 12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]-fluorene, 16.9 g (54.2 mmol) of 4,4′-dibromobiphenyl and 29.2 g (304 mmol) of NaOtBu are suspended in 1.35 l of p-xylene. 490 mg (2.1 mmol) of Pd(OAc)2 and 1.7 ml (6.72 mmol) of a tri-tert-butylphosphine solution are added to this suspension. The reaction mixture is heated under reflux for 16 h. After cooling, the organic phase is separated off, washed three times with 200 ml of water and subsequently evaporated to dryness. The residue is extracted with hot toluene and recrystallised from toluene and finally sublimed in a high vacuum, the purity is 99.9%. The yield is 37.8 g (53 mmol, 90%).

reactant | 12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]-fluorene | 107 mmol, 30.3 g | CC1(C2=CC=CC=C2C=2C1=CC=1NC3=CC=CC=C3C1C2)C | C21H17N
reactant | 4,4′-dibromobiphenyl | 54.2 mmol, 16.9 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C12H8Br2
reactant | NaOtBu | 304 mmol, 29.2 g | CC(C)(C)[O-].[Na+]
reactant | tri-tert-butylphosphine | 6.72 mmol, 1.7 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | p-xylene | 1.35 l | CC=1C=CC(=CC1)C | C8H10
catalyst | Pd(OAc)2 | 2.1 mmol, 490 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4,4′-Di(12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluoren-10-yl)biphenyl | CC1(C2=CC=CC=C2C=2C1=CC=1N(C3=CC=CC=C3C1C2)C2=CC=C(C=C2)C2=CC=C(C=C2)N2C1=CC=CC=C1C=1C=C3C(=CC21)C(C2=CC=CC=C23)(C)C)C | C54H40N2
